US09333205B2
To a solution of ethyl (3-ethoxy-2-oxocyclohex-3-en-1-yl)(oxo)acetate 5.0 g (20.73 mmol) in 20 mL of EtOH and 5 mL of AcOH, 1.3 mL (20.78 mmol) of HONH2.H2O (50% wt/wt) was added. The mixture was stirred at room temperature for 4 hours. The solvent was removed under reduced pressure and the crude solid was purified by flash chromatography on silica gel (eluant: AcOEt/Hexane:3/7) to afford 1.35 g (25% yield) as a white solid of ethyl 7-ethoxy-7a-hydroxy-3a,4,5,7a-tetrahydro-1,2-benzisoxazole-3-carboxylate

reactant | ethyl (3-ethoxy-2-oxocyclohex-3-en-1-yl)(oxo)acetate | 20.73 mmol, 5.0 g | C(C)OC=1C(C(CCC1)C(C(=O)OCC)=O)=O | C12H16O5
reactant | HONH2.H2O | 20.78 mmol, 1.3 mL | ON.O
solvent | EtOH | 20 mL | CCO | C2H6O
solvent | AcOH | 5 mL | CC(=O)O | C2H4O2
product | ethyl 7-ethoxy-7a-hydroxy-3a,4,5,7a-tetrahydro-1,2-benzisoxazole-3-carboxylate | 25% yield | C(C)OC1=CCCC2C(=NOC21O)C(=O)OCC | C12H17NO5
